US06498170B2
1-(4-Butoxy-benzenesulfonyl)-piperidin-4-one
The title compound was prepared from 4-butoxybezenesulfonyl chloride and 4-piperidone monohydrate hydrochloride according to the procedure of Intermediate 22 as an off-white solid; 1H NMR (CDCl3) δ 0.98 (t, J=7.38 Hz, 3H), 1.44-1.54 (m, 4H), 1.75-1.84 (m, 4H), 2.54 (t, J=6.24 Hz, 2H), 3.37 (t, J=6.18 Hz, 2H), 4.02 (t, J=6.48 Hz, 2H), 6.99 (dt, J=2.91 Hz, 4.77 Hz, 2H), 7.72(dt, J=2.91 Hz, 4.86 Hz, 2H); MS (ES) m/z 311.9 (MH+); HRMS for C15H21NO4S: 311.1196; Anal. Calcd. for C15H21NO4S: C, 57.86; H, 6.80; N, 4.50. Found: C, 57.69; H, 6.50; N, 4.25.

reactant | 4-butoxybezenesulfonyl chloride | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO3S
reactant | 4-piperidone monohydrate hydrochloride | Cl.O.N1CCC(CC1)=O
product | 1-(4-Butoxy-benzenesulfonyl)-piperidin-4-one | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)=O | C15H21NO4S
